US06034129
Synthesis of TMAEAC/n-Decylacrylamide/Acrylamid Terpolymer 33/33/33
To a 500 mL round-bottom, three-neck flask fitted with a thermocouple, reflux condenser, and septum was added 150 mL of isopropanol followed by 16.13 g of a 50% aqueous solution of 2-trimethylammoniumethylacrylate chloride, 8.06 g of n-decylacrylamide, and 8.06 g of acrylamide. The solution was purged with nitrogen for 1 hour and 0.5 g AIBN was added. The mixture was purged for -15 minutes until all of the AIBN dissolved. The solution was heated to 75° C. under nitrogen for 16 hours.

reactant | n-decylacrylamide | 8.06 g | C(CCCCCCCCC)C(C(=O)N)=C | C13H25NO
reactant | acrylamide | 8.06 g | C(C=C)(=O)N | C3H5NO
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | n-Decylacrylamide Acrylamid | C(CCCCCCCCC)C(C(=O)N)=C.C(C=C)(=O)N | InChI=1S/C13H25NO.C3H5NO/c1-3-4-5-6-7-8-9-10-11-12(2)13(14)15;1-2-3(4)5/h2-11H2,1H3,(H2,14,15);2H,1H2,(H2,4,5)
